US05861421
To 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(4-nitrophenylethynyl)cyclohexane (0.19 g, 0.40 mmol) in methanol (1 mL), acetic acid (1.2 mL), and water (1.2 mL) under an argon atmosphere was added titanium trichloride (0.3 g, 2 mmol). After stiring for 1.5 h at room temperature, water (1.2 mL) and ammonium hydroxide (2.5 mL) were added. After stirring an additional 1 h, methanol (17.5 mL), 5% sodium carbonate (17.5 mL) and dichloromethane (35 mL) were added, and stirring was continued for 3 days. The suspension was filtered through Celite®, was washed well with dichloromethane, and was evaporated. Water was added, the mixture was extracted three times with dichloromethane, the extract was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 3:7 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-aminophenylethynyl)cyclohexan-1-one as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ 7.28 (d, J=8.4 Hz, 2H), 7.24 (d, J=2.1 Hz, 1H), 7.12 (d, J=8.5 Hz, 1H), 6.85 (d, J=8.5 Hz, 1H), 6.64 (d, J=8.1 Hz, 2H), 4.80 (m, 1H), 3.85 (s, 3H), 3.05 (dt, J=14.3, 4.1 Hz, 2H), 2.45 (br d, J=14.6 Hz, 2H), 2.29 (m, 4H), 1.8-2.0 (m, 6H), 1.61 (m, 2H).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(4-nitrophenylethynyl)cyclohexane | 0.40 mmol, 0.19 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC=C(C=C2)[N+](=O)[O-] | C28H31NO6
reactant | water | 1.2 mL | O | H2O
reactant | water | 1.2 mL | O | H2O
reactant | ammonium hydroxide | 2.5 mL | [OH-].[NH4+]
reactant | sodium carbonate | 17.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
catalyst | titanium trichloride | 2 mmol, 0.3 g | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | methanol | 17.5 mL | CO | CH4O
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-aminophenylethynyl)cyclohexan-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=CC=C(C=C1)N | C26H29NO3
